US07960380B2
N˜2˜-(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)-N˜1˜-[3-(difluoromethoxy)benzyl]glycinamide
2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.175 g, 0.58 mmol), N-[3-(difluoromethoxy)benzyl]glycinamide (0.159 g, 0.69 mmol) and TEA (0.23 g, 2.31 mmol) was dissolved in dry DMF (3 ml) and heated in a microwave reactor at 130° C. for 30 mins. The reaction mixture was purified by preparative HPLC to yield the title compound (0.118 g, 41%). 1H NMR (500 MHz, CDCl3): δ 7.46-7.35 (m, 5H), 7.35-7.28 (m, 1H), 7.09-7.01 (m, 2H), 6.99-6.94 (m, 1H), 6.50 (t, 1H), 6.02-5.94 (m, 1H), 5.91-5.82 (m, 1H), 4.37-4.31 (m, 2H), 3.53-3.48 (m, 2H), 1.71 (s, 9H); 13C NMR (125 MHz, CDCl3): δ 167.3, 159.3, 139.9, 134.9, 131.5, 130.5, 130.2, 129.0, 125.1, 124.5, 119.4, 119.0, 116.0, 113.9, 109.9, 62.0, 46.8, 43.4, 27.8; Mass Spectrum: M−H+ 494.

reactant | 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.58 mmol, 0.175 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | N-[3-(difluoromethoxy)benzyl]glycinamide | 0.69 mmol, 0.159 g | FC(OC=1C=C(CNC(CN)=O)C=CC1)F | C10H12F2N2O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N˜2˜-(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)-N˜1˜-[3-(difluoromethoxy)benzyl]glycinamide | 0.118 g, 41% | C(C)(C)(C)N1S(C(=C(C1=O)NCC(=O)NCC1=CC(=CC=C1)OC(F)F)C1=CC=CC=C1)(=O)=O | C23H25F2N3O5S
